US06423704B1
Treat a solution of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan (0.59 g, 1.86 mmol, Preparation 9) and dimethylformamide (10 mL) with sodium hydride (0.11 g, 2.75 mmol, 60% dispersion in oil) at room temperature. After 15 minutes, add pentyl bromide (0.34 mL, 2.74 mmol, Aldrich Chemical Company) and heat overnight at 80° C. Cool the reaction and dilute with dichloromethane (150 mL). Extract the organic phase with brine, dry (Na2SO4), filter and concentrate the filtrate to afford 4-(1-pentyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.71 g, Rf=0.87, silica gel, 95:5:0.5 dichloromethane:methanol:ammonium hydroxide).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan | 1.86 mmol, 0.59 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 2.75 mmol, 0.11 g | [H-].[Na+]
reactant | pentyl bromide | 2.74 mmol, 0.34 mL | C(CCCC)Br | C5H11Br
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(1-pentyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.71 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCCC)C=CC=C2 | C22H34N4O2
